US06140100
According to example 17, 5.47 g of 2-cyclopentylbenzyl alcohol was treated with 1.03 mL of PBr3 in 25 mL of anhydrous CH2Cl2 to afford 6.9 g (93%) of 2-cyclopentylbenzyl bromide as a clear liquid.

reactant | 2-cyclopentylbenzyl alcohol | 5.47 g | C1(CCCC1)C1=C(CO)C=CC=C1 | C12H16O
reactant | PBr3 | 1.03 mL | P(Br)(Br)Br | Br3P
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 2-cyclopentylbenzyl bromide | 6.9 g, 93% | C1(CCCC1)C1=C(CBr)C=CC=C1 | C12H15Br
